US05753714
A solution of 1-chloromethylnaphthalene (1.7 g - 9.6 mmol) in 5 ml hexamethylphosphorous triamide (HMPA) is added to a mixture of 1,5,14,18-tetra(t-butoxycarbonyl)-1,5,14,18-tetraazaoctadecane (2.6 g) and potassium t-butoxide (1.07 gm) in HMPA (50 ml). The mixture is heated in an 80° C. oil bath for 4 hours, poured into 300 ml of water, and the aqeuous mixture is extracted with ethyl acetate (2×300 ml). The combined extracts are extracted with water (3×300 ml) and brine (300 ml). The organic layer is dried, evaporated and the residue is chromatographed (flash-silica gel column eluting with 4 to 1 toluene/ethylacetate to yield 800 mg of 1,18-bis-[(1-naphthyl)methyl]-1,5,14,18-tetra(t-butoxycarbonyl)-1,5,14,18-tetraazaoctadecane.

reactant | 1-chloromethylnaphthalene | ClCC1=CC=CC2=CC=CC=C12 | C11H9Cl
reactant | 1,5,14,18-tetra(t-butoxycarbonyl)-1,5,14,18-tetraazaoctadecane | 2.6 g | C(C)(C)(C)OC(=O)NCCCN(CCCCCCCCN(CCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C34H66N4O8
reactant | potassium t-butoxide | 1.07 gm | CC(C)([O-])C.[K+]
reactant | water | 300 ml | O | H2O
solvent | hexamethylphosphorous triamide | 5 ml | CN(P(N(C)C)N(C)C)C | C6H18N3P
solvent | HMPA | 50 ml | CN(P(N(C)C)N(C)C)C | C6H18N3P
product | 1,18-bis-[(1-naphthyl)methyl]-1,5,14,18-tetra(t-butoxycarbonyl)-1,5,14,18-tetraazaoctadecane | 800 mg | C1(=CC=CC2=CC=CC=C12)CN(CCCN(CCCCCCCCN(CCCN(C(=O)OC(C)(C)C)CC1=CC=CC2=CC=CC=C12)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C56H82N4O8
